US06221865B1
[4-(4-methylpiperazinylmethyl)-2-phenylbenzoyl]methionine methyl ester
A solution of 4-chloromethyl-2-phenylbenzoic acid methyl ester (0.521 g, 2.00 mmol), prepared as in Example 286A, 1-methylpiperazine (0.607 g, 6.00 mmol), K2CO3 (0.663 g, 4.80 mmol), KI (0.332 g, 2.00 mmol), and Bu4NBr (0.032 g, 0.10 mmol) in DMF (5 mL) was stirred for 2 hours at ambient temperature and then concentrated under reduced pressure. The residue was treated with a saturated LiOH-methanol (10 mL) and then heated at reflux for 5 hours. The mixture was concentrated and the residue was dissolved in H2O. This solution was extracted with ethyl acetate (5×), and the aqueous phase was then acidified by the addition of 3 M HCl and lyopholized. The resulting white foam was dissolved in DMF (20 mL) and the solution was treated with L-methionine, methyl ester hydrochloride (0.807 g, 4.00 mmol), 3-hydroxy-1,2,3-benzotriazin-4(3H)-one (1.33 g, 8.00 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.56 g, 8.00 mmol), and N-methylmorpholine (1.23 g, 12.0 mmol). The reaction mixture was stirred at ambient temperature for 20 hours, diluted with ethyl acetate, and extracted with a 2:1 mixture of H2O and saturated aqueous NaHCO3 (2×), 1:1 mixture of the same (2×) and brine (2×). The organic phase was dried (MgSO4) and concentrated to provide a gold oil. Radial chromatography (30% methanol-ethyl acetate) afforded the desired compound (0.321 g, 35%).

reactant | 4-chloromethyl-2-phenylbenzoic acid methyl ester | 2.00 mmol, 0.521 g | COC(C1=C(C=C(C=C1)CCl)C1=CC=CC=C1)=O | C15H13ClO2
reactant | 1-methylpiperazine | 6.00 mmol, 0.607 g | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 4.80 mmol, 0.663 g | C(=O)([O-])[O-].[K+].[K+]
reactant | L-methionine, methyl ester hydrochloride | 4.00 mmol, 0.807 g | Cl.N[C@@H](CCSC)C(=O)OC
reactant | 3-hydroxy-1,2,3-benzotriazin-4(3H)-one | 8.00 mmol, 1.33 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 8.00 mmol, 1.56 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-methylmorpholine | 12.0 mmol, 1.23 g | CN1CCOCC1 | C5H11NO
catalyst | Bu4NBr | 0.10 mmol, 0.032 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | [4-(4-methylpiperazinylmethyl)-2-phenylbenzoyl]methionine methyl ester | 0.321 g, 35% | COC([C@@H](NC(C1=C(C=C(C=C1)CN1CCN(CC1)C)C1=CC=CC=C1)=O)CCSC)=O | C25H33N3O3S
